US08440702B2
methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (20 mg, 0.0276 mmol), aqueous potassium hydroxide (300 μL, 3M, 0.90 mmol) and ethanol (2 mL) were stirred at 20° C. for 2 hours and 20 minutes to complete the hydrolysis. The reaction mixture was acidified by acetic acid. The mixture was purified by preparative TLC on silica gel, (eluted with AcOH/EtOAc/hexanes=5/25/70, v/v) to afford 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS calc.=711.17; found=712.10 (M+1)+. 1H NMR signals are doubled because of atropoisomerism. 1H NMR (CDCl3, 500 MHz) δ 7.99 (d, J=8.0 Hz, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.85 (d, J=5 Hz, 1H), 7.72-7.68 (m, 1.5H), 7.67-7.60 (m, 2.5H), 7.47-7.36 (m, 2H), 7.32 (d, J=8.0 Hz, 0.5H), 7.28 (d, J=8.0 Hz, 0.5H), 7.15 (s, 1H), 7.08 (d, J=8.5, 7.0 Hz, 1H), 5.58 (d, J=8.0 Hz, 0.5H), 5.29 (d, J=6.5 Hz, 0.5H), 4.97 (d, J=15.5 Hz, 0.5H), 4.94 (d, J=14 Hz, 0.5H), 4.16 (d, J=16 Hz, 0.5H), 3.96 (d, J=15.5 Hz, 0.5H), 3.87 (s, 3H), 3.83-3.74 (m, 1H), 2.38, 2.33 (s, 3H), 0.55 (d, J=6.5 Hz, 1.5H), 0.42 (d, J=7 Hz, 1.5H).

reactant | methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.0276 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C)(F)F | C36H28F9NO5
reactant | potassium hydroxide | 0.90 mmol, 3M, 300 μL | [OH-].[K+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C)(F)F | C35H26F9NO5
